US07291615B2
(26d). Preparation of (2-amino-5-(trifluoromethoxy)phenyl)methanol.
A solution of tert-butyl 2-(hydroxymethyl)-4-(trifluoromethoxy)phenylcarbamate (19.3 g, 62.9 mmol) in dioxane (100 mL) was treated with a 4 N solution of HCl in dioxane (126 mL, 504 mmol HCl), and the mixture was stirred overnight. The solution was concentrated in-vacuo, the residue was partitioned between ethyl acetate (200 mL) and saturated sodium bicarbonate (200 mL), and the mixture was stirred until gas evolution had ceased. The layers were separated, the organic phase was washed with saturated sodium bicarbonate (100 mL), water (100 mL), brine (100 mL), dried over sodium sulfate, and concentrated in-vacuo to yield 12.3 g of a pale yellow oil, which was used as-is in the next step. 1H NMR (400 MHz, DMSO) δ ppm 4.36 (m, 2 H) 5.14 (m, 3 H) 6.64 (d, J=8.79 Hz3, 1 H) 6.92 (dd, J=8.79, 2.64 Hz, 1 H) 7.06 (s, 1 H).

reactant | tert-butyl 2-(hydroxymethyl)-4-(trifluoromethoxy)phenylcarbamate | 62.9 mmol, 19.3 g | OCC1=C(C=CC(=C1)OC(F)(F)F)NC(OC(C)(C)C)=O | C13H16F3NO4
reactant | HCl | Cl | ClH
solvent | dioxane | 100 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 504 mmol, 126 mL | O1CCOCC1 | C4H8O2
product | (2-amino-5-(trifluoromethoxy)phenyl)methanol | 12.3 g | NC1=C(C=C(C=C1)OC(F)(F)F)CO | C8H8F3NO2
